US08791123B2
N—((S)-2,3-dihydroxypropyl)-5-((R)-2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method of Example 1, using (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation G) and (S)-3-aminopropane-1,2-diol (2.0 equiv). The crude material was purified by SiO2 column chromatography, eluting with EtOAc then 10% MeOH-EtOAc to afford the title compound as a white solid (53% yield). MS (apci) m/z=430.1 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)OC | C18H17FN4O3
reactant | (S)-3-aminopropane-1,2-diol | 2.0 equiv | NC[C@@H](CO)O | C3H9NO2
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | N—((S)-2,3-dihydroxypropyl)-5-((R)-2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 53% yield | O[C@@H](CNC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)OC)CO | C21H24FN5O4
